US07049312B1
Synthesis of (Z)-2-{{6-{N-[2-(Pyrrolidin-1-yl)ethyl]carbamoyl}indol-3-yl}methylene}-2H-1,4-benzothiazin-3 (4H)-one
To a solution of (Z)-2-[(6-carboxyindol-3-yl)methylene]-2H-1,4-benzothiazin-3(4H)-one (0.5 g, 1.5 mmol) in dry N,N-dimethylformamide (30 ml), 1,1′-carbonyldiimidazol (0.24 g, 1.5 mmol) was added under nitrogen atmosphere, and the mixture was heated at 40° C. for 1 h. Then N-(2-aminoethyl)pyrrolidine (0.34 g, 2.98 mmol) was added and the mixture heated at the same temperature for an additional time of 20 h. The reaction was allowed to cool to room temperature and the solvent removed under reduced pressure. The residue was treated with water and the yellow precipitate was crystallized from N,N-dimethylformamide/water to yield 0.31 g (48%) of the entitled product.

reactant | (Z)-2-[(6-carboxyindol-3-yl)methylene]-2H-1,4-benzothiazin-3(4H)-one | 1.5 mmol, 0.5 g | C(=O)(O)C1=CC=C2C(=CNC2=C1)\C=C\1/SC2=C(NC1=O)C=CC=C2 | C18H12N2O3S
reactant | 1,1′-carbonyldiimidazol | 1.5 mmol, 0.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-(2-aminoethyl)pyrrolidine | 2.98 mmol, 0.34 g | NCCN1CCCC1 | C6H14N2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | (Z)-2-{{6-{N-[2-(Pyrrolidin-1-yl)ethyl]carbamoyl}indol-3-yl}methylene}-2H-1,4-benzothiazin-3 (4H)-one | 0.31 g, 48% | N1(CCCC1)CCNC(=O)C1=CC=C2C(=CNC2=C1)\C=C\1/SC2=C(NC1=O)C=CC=C2 | C24H24N4O2S
